US06630600B1
3-(4-Hydroxyphenyl)-2-phenylsulfanylpropanoic acid ethyl ester was reacted with p-cyanophenethyl alcohol using the same method as in Example 38(c) to give 3-{4-[2-(4-cyanophenyl)ethoxy]phenyl}-2-phenylsulfanylpropionic acid ethyl ester.

reactant | 3-(4-Hydroxyphenyl)-2-phenylsulfanylpropanoic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)SC1=CC=CC=C1)=O | C17H18O3S
reactant | p-cyanophenethyl alcohol | C(#N)C1=CC=C(CCO)C=C1 | C9H9NO
product | 3-{4-[2-(4-cyanophenyl)ethoxy]phenyl}-2-phenylsulfanylpropionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)C#N)SC1=CC=CC=C1)=O | C26H25NO3S
